US04247629
D-8: 2(3-Sulfopropyl)thio-4-nitroaniline sodium salt
In a mixture of 50 ml. of ethanol and 0.46 g. of metallic sodium were dissolved 3.4 g. of 2-mercapto-4-nitroaniline and 2.44 g. of propanesultone were added thereto under stirring. Thereafter, heating was conducted at 40°-50° C. for 1 hour and the crystalline substance thus separated was recovered by filtration, washed with ethanol and acetone and then dried to give 2 g. of the desired product. m.p. 181°-193° C.

reactant | sodium | [Na] | Na
reactant | 2-mercapto-4-nitroaniline | SC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O2S
reactant | propanesultone | C1CCOS1(=O)=O | C3H6O3S
solvent | ethanol | C(C)O | C2H6O
product | 2(3-Sulfopropyl)thio-4-nitroaniline sodium salt | [Na].S(=O)(=O)(O)CCCSC1=C(N)C=CC(=C1)[N+](=O)[O-] | InChI=1S/C9H12N2O5S2.Na/c10-8-3-2-7(11(12)13)6-9(8)17-4-1-5-18(14,15)16;/h2-3,6H,1,4-5,10H2,(H,14,15,16);
